US07700628B2
B. 2-Methyl-3-(tert-butoxycarbonylamino)propanol
The tert-butyl N-(2-methylallyl)carbamate (213 mg, 1.24 mmol) was diluted with THF (12 mL) and the mixture was cooled to 0° C. Borane-dimethylsulfide complex (0.9 mL, 1.8 mmol) was added. After 1.5 hours, the reaction was cooled to −40° C. and 1 N NaOH (5 mL) and 30% hydrogen peroxide (5 mL) were carefully added. After 15 minutes, the reaction was warmed slowly until the frozen mixture melted. Ethyl acetate (100 mL) was then added, and the mixture was washed with brine (3×10 mL). The combined aqueous layers were extracted with ethyl acetate (100 mL). The organic layers were combined, dried over sodium sulfate, filtered, and concentrated. The crude residue was purified by flash column chromatography (about 20 g silica, 10% EtOAc/CH2Cl2 through 15% EtOAc/CH2Cl2) to give the desired product (209 mg, 1.10 mmol, 89%).

reactant | tert-butyl N-(2-methylallyl)carbamate | 1.24 mmol, 213 mg | CC(CNC(OC(C)(C)C)=O)=C | C9H17NO2
reactant | NaOH | 1 N, 5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 5 mL | OO | H2O2
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-Methyl-3-(tert-butoxycarbonylamino)propanol | 1.10 mmol, 209 mg, 89% | CC(CO)CNC(=O)OC(C)(C)C | C9H19NO3
